US04104248
Preparation of N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)hexamethylenediamine
162.75 g (1.05 moles) of 2,2,6,6-tetramethyl-4-piperidone dissolved in 200 cc of methanol, 58 g (0.5 moles) of hexamethylenediamine dissolved in 70 cc of methanol, and 0.5 g of Pt (at 10% on carbon) were introduced into a 1 liter autocalve. The mixture was hydrogenated at 80° C and 50 atm pressure for 2 hours.

reactant | 2,2,6,6-tetramethyl-4-piperidone | 1.05 moles, 162.75 g | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
reactant | hexamethylenediamine | 0.5 moles, 58 g | NCCCCCCN | C6H16N2
solvent | methanol | 200 cc | CO | CH4O
solvent | methanol | 70 cc | CO | CH4O
product | N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)hexamethylenediamine | CC1(NC(CC(C1)NCCCCCCNC1CC(NC(C1)(C)C)(C)C)(C)C)C | C24H50N4
